US04159984
To a solution of 500 mg of benzyl α-(3ξ-carbomethoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 10 ml of tetrahydrofuran are added 0.27 ml of triethylamine and 343 mg of phenylmethanesulfonyl chloride under ice-cooling in nitrogen atmosphere, and the mixture stirred for 25 minutes. The reaction mixture is poured into ice water and extracted with ethyl acetate, and the extract washed with water, dried on sodium sulfate and concentrated under reduced pressure to yield 756 mg of benzyl α-(3ξ-carbomethoxy-2-phenylmethanesulfonyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate.

reactant | benzyl α-(3ξ-carbomethoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 500 mg | C(=O)(OC)C1NC2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O | C18H20N2O6
reactant | triethylamine | 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | phenylmethanesulfonyl chloride | 343 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | benzyl α-(3ξ-carbomethoxy-2-phenylmethanesulfonyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 756 mg | C(=O)(OC)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)S(=O)(=O)CC1=CC=CC=C1 | C25H26N2O8S
